US05225402
To a mixture of N-(1-benzyl-4-piperidinyl)aniline (1.8 g), diisopropyl ether (20 ml) and triethylamine (0.87 g) is added dropwise a solution of β-n-butoxyacrylic acid chloride (1.4 g) in diisopropyl ether (5 ml) with stirring and heating at 70° C. After completion of dropwise addition, the mixture is further stirred with heating at the same temperature for 0.5 hour. After cooling, water is added to the reaction mixture and the mixture is subjected to extraction with ethyl acetate. The extract is washed with water and dried over magnesium sulfate. The solvent is distilled off under reduced pressure and the resulting residue is purified by silica gel column chromatography to give N-(β-n-butoxyacryloyl)-N-(1-benzyl-4-piperidinyl)-aniline (2.6 g).

reactant | N-(1-benzyl-4-piperidinyl)aniline | 1.8 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=CC=C1 | C18H22N2
reactant | triethylamine | 0.87 g | C(C)N(CC)CC | C6H15N
reactant | β-n-butoxyacrylic acid chloride | 1.4 g | C(CCC)OC=CC(=O)Cl | C7H11ClO2
reactant | water | O | H2O
solvent | diisopropyl ether | 5 ml | C(C)(C)OC(C)C | C6H14O
solvent | diisopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
product | N-(β-n-butoxyacryloyl)-N-(1-benzyl-4-piperidinyl)-aniline | 2.6 g | C(CCC)OC=CC(=O)N(C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1 | C25H32N2O2
